US07196080B2
To a THF solution of ethyl 4-[N-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl)amino]butanoate were added a 36% aqueous formalin solution, acetic acid and sodium triacetoxyborohydride, followed by stirring. Then, post-treatment and purification were carried out in a usual way to obtain ethyl 4-[N-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl)-N-methylamino]butanoate.

reactant | THF | C1CCOC1 | C4H8O
reactant | ethyl 4-[N-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl)amino]butanoate | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)NCCCC(=O)OCC | C30H36N4O5
reactant | formalin | C=O | CH2O
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4-[N-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenyl)-N-methylamino]butanoate | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)N(C)CCCC(=O)OCC | C31H38N4O5
